2175-05-12 07:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Received kayexalate, calcium, D50, insulin for K 7.3 with improvement
   to 5.9.
   - Stress dose steroids decreased to hydrocort 50 q8h
   - Femoral HD line placed by IR; pt underwent HD
   - EKG repeated after HD at 6:43pm. Old RBBB, TWI in II/III/aVF, V4-V6
   with 1mm STE in aVR and V1. Repeated at 20:44, RBBB with QT 600, TWI in
   II/III/aVF, V3-V4. Restarted heparin gtt for this and as on home
   anticoagulation for [**1-30**] dx of PE. Seen by Cards who thought most c/w
   demand-related changes in setting of fluid shifts after HD given
   absence of CP or SOB. Continued ASA, hep gtt, beta blocker. TTE
   ordered. Electrolytes rechecked. CE trending down. Mg and K repleted
   with goal 2.5 and 3.5 respectively.
   - Noted to be bleeding from HD site which continued despite dressing.
   Heparin gtt discontinued. Hct 31.3 -> 25.3. Ordered for 2 units for Hct
   goal 30 given concern for ischemia.
   - Given ativan 1mg po for anxiety/insomnia.
   Allergies:
   Dyazide (Oral) (Triamterene/Hydrochlorothiazid)
   Unknown;
   Prozac (Oral) (Fluoxetine Hcl)
   Unknown;
   Nsaids
   Unknown;
   Inderal (Oral) (Propranolol Hcl)
   Unknown;
   Cefazolin
   laryngeal ed
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2175-5-12**] 05:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:  Denies lightheadedness at rest. No chest pain or
   shortness of breath.
   Flowsheet Data as of  [**2175-5-12**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.6
C (97.8
   HR: 63 (62 - 88) bpm
   BP: 108/43(58) {102/32(50) - 162/62(87)} mmHg
   RR: 29 (15 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                    818 mL
                                                                    367 mL
   PO:
                                                                    135 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    633 mL
                                                                    247 mL
   Blood products:
   Total out:
                                                                    612 mL
                                                                    117 mL
   Urine:
                                                                    612 mL
                                                                    117 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    206 mL
                                                                    250 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///30/
   Physical Examination
   GEN: NAD.
   HEENT: NC/AT scelra anicteric Dry MM
   Lungs: CTAB
   HEART: RRR 2/6 SM RUSB
   ABD: Soft. NT/ND
   BACK: No spine tenderness
   EXTREM: Oozing from left femoral line site soaking bandages.
   NEURO: AAO x 2.
   Labs / Radiology
   162 K/uL
   8.2 g/dL
   128 mg/dL
   4.3 mg/dL
   30 mEq/L
   3.9 mEq/L
   26 mg/dL
   98 mEq/L
   137 mEq/L
   25.3 %
   8.9 K/uL
        [image002.jpg]
                             [**2175-5-10**]  06:00 PM
                             [**2175-5-10**]  09:41 PM
                             [**2175-5-11**]  04:03 AM
                             [**2175-5-11**]  08:37 AM
                             [**2175-5-11**]  01:00 PM
                             [**2175-5-11**]  07:56 PM
                             [**2175-5-12**]  04:21 AM
   WBC
   11.2
   8.9
   Hct
   31.3
   25.3
   Plt
   214
   162
   Cr
   6.7
   7.1
   6.9
   7.4
   4.3
   TropT
   0.50
   0.44
   0.56
   0.65
   0.60
   0.68
   Glucose
   172
   70
   128
   Other labs: PT / PTT / INR:20.1/29.8/1.9, CK / CKMB /
   Troponin-T:216/16/0.68, Ca++:8.8 mg/dL, Mg++:2.9 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   66 yo woman with ESRD on HD with recent line sepsis presenting with
   fever.
   # EKG changes: CP on presentation thought to be [**12-26**] hyperkalemia with
   rate and metabolic related changes resolved w/ sedation and BP control
   with nitro paste. Now CP free x 36 hours but with persistently abnormal
   ST-T changes on EKGs despite HD. Likely demand-related changes in
   setting of fluid shifts post-HD. Less likely ACS as pt asymptomatic and
   downtrending CKs with stable trops.
   - Appreciate Cards c/s; will f/u recs and check TTE today for new WMA.
   - Cont ASA, beta blocker
   - Holding heparin gtt for now in setting of bleed
   - Transfuse for Hct <30
   - CK has peaked. Trops stabilizing in high 0.60
s likely [**12-26**] renal
   failure. No need to cycle enzymes now.
   - F/U am EKG
   - check cholesterol and start statin
   # Dropping Hct: Likely [**12-26**] continued oozing from femoral line insertion
   site in setting of heparin gtt, now discontinued.
   - Compression applied to fem line
   - IR made aware. F/U recs.
   - Maintain active T&S with adequate peripheral access
   - Check post-transfusion hct; transfuse for Hct <30
   # Sepsis/fever: Hypotension resolved; no leukocytosis. On vanc/zosyn
   for empiric tx of infection with most likely source her dialysis
   catheter given her history although cx neg to date; cath pulled and
   temp HD line placed. Concern for osteomyelitis given initial complaint
   of back pain but without tenderness to palpation on exam. Endocarditis
   also possible. DFA neg for influenza. Ucx neg.
   - F/u pending cultures
   - influenza DFA
   - Continue vancomycin;
   - d/c zosyn as cx NGTD x 48 h
   - Evaluate for evidence of endocarditis on TTE being done for WMA
   - Consider MRI spine if above w/u negative
   # Back pain: Osteomyelitis is possibility but pt currently w/o spine
   tenderness.
   - Follow exam; morphine prn
   - Consider MRI if not improving
   # ESRD: MWF dialysis.  HD cath pulled and temp lined placed; dialyzed
   yesterday.
   - F/u renal recs for HD and plan for new HD line (AV fistula
   thrombosed)
   # Diabetes: Cont lantus + ISS
   # Hypertension: BP nomotensive
   - Restarted on low-dose beta blocker; uptitrate as tolerated
   - Holding ACE for now but would restart as tolerated as pt has resumed
   HD
   # H/o DVT/PE: Heparin gtt held in setting of active bleed.
   ICU Care
   Nutrition: Diabetic, renal
   Glycemic Control:  lantus and ISS
   Lines: D/C EJ today
   Multi Lumen - [**2175-5-10**] 02:30 PM
   Dialysis Catheter - [**2175-5-11**] 12:00 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: PPI
   Communication:  Comments: with patient and daughter
   [**Name (NI) 66**] status: Full code
   Disposition: ICU for now pending stabilization of bleed/Hct
   post-transfusion